US09303033B2
To 5-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid (40 mg, 0.122 mmol), HATU (70 mg, 0.183 mmol), HOBt (4 mg, 0.024 mmol) and DIEA (85 μL, 0.488 mmol) in 2 mL of DMF was added ammonium chloride (20 mg, 0.366 mmol). The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate washed with saturated NaHCO3 solution, brine, dried over MgSO4, filtered, and evaporated to dryness to provide 42 mg of 5-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxamide (100%). LCMS (M+1=328).

reactant | 5-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid | 0.122 mmol, 40 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC=C(S2)C(=O)O | C15H12N4O3S
reactant | HATU | 0.183 mmol, 70 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.024 mmol, 4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.488 mmol, 85 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium chloride | 0.366 mmol, 20 mg | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxamide | 42 mg, 100% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC=C(S2)C(=O)N | C15H13N5O2S
